US04851526
N-Ethyl-N-(2-hydroxyethyl)-N-[2-(4-methylphenoxy)ethyl]-amine
Add 0.90 g (011 mol) 2-chloroethanol to a solution of 2.0 g (0.11 mol) N-ethyl-N-[2-(4-methylphenoxy)ethyl]amine and 1.7 g (012 mol) potassium carbonate in 50 mL methanol. Stir at room temperature for 24 hr. After this time, remove the solvents in vacuo and dissolve the residue in 25 mL water. Adjust the aqueous to pH=8 with 5% sodium bicarbonate solution and extract 3×50 mL methylene chloride. Dry the combined organics over sodium sulfate and evaporate the solvent to obtain the desired product.

reactant | 2-chloroethanol | 0.90 g | ClCCO | C2H5ClO
reactant | N-ethyl-N-[2-(4-methylphenoxy)ethyl]amine | 0.11 mol, 2.0 g | C(C)NCCOC1=CC=C(C=C1)C | C11H17NO
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | N-Ethyl-N-(2-hydroxyethyl)-N-[2-(4-methylphenoxy)ethyl]-amine | C(C)N(CCOC1=CC=C(C=C1)C)CCO | C13H21NO2
